US08034940B2
A 1.6 M hexane solution of n-butyllithium (2.72 mL, 4.34 mmol) was added to a solution of diisopropylamine (440 mg, 4.34 mmol) in THF (6 mL) at −78° C. over 5 minutes. The resultant solution was warmed to 0° C. for 30 min and cooled to −78° C. A solution of ethyl cyclobutanecarboxylate (464 mg, 3.62 mmol) in THF (1 mL) was added dropwise. The mixture was stirred at −78° C. for 30 min. Chlorotrimethylsilane (0.597 mL, 4.71 mmol) was added. The mixture was warmed to room temperature over 1 h, quenched with saturated NaHCO3 (5 mL), diluted with diethyl ether (200 mL), washed with water (20 mL), brine (20 mL), dried (MgSO4) and concentrated to give (cyclobutylidene(ethoxy)methoxy)trimethylsilane, which was taken to next step without further purification.

reactant | n-butyllithium | 4.34 mmol, 2.72 mL | C(CCC)[Li]
reactant | diisopropylamine | 4.34 mmol, 440 mg | C(C)(C)NC(C)C | C6H15N
reactant | ethyl cyclobutanecarboxylate | 3.62 mmol, 464 mg | C1(CCC1)C(=O)OCC | C7H12O2
reactant | Chlorotrimethylsilane | 4.71 mmol, 0.597 mL | Cl[Si](C)(C)C | C3H9ClSi
solvent | THF | 6 mL | C1CCOC1 | C4H8O
solvent | THF | 1 mL | C1CCOC1 | C4H8O
solvent | hexane | 1.6 M | CCCCCC | C6H14
product | (cyclobutylidene(ethoxy)methoxy)trimethylsilane | C1(CCC1)=C(O[Si](C)(C)C)OCC | C10H20O2Si
